US04560691
To a mixture containing 6.57 g of 5-(3-aminophenyl)-1,6-naphthyridin-2(1H)-one dihydrochloride monohydrate and 64 ml of pyridine was added dropwise with stirring 2.9 ml of methanesulfonyl chloride and the reaction mixture was stirred for about 30 minutes. The reaction mixture was concentrated on a rotary evaporator and to the residual oily material was added water whereupon a solid separated and then dissolved. To the solution was added about 10 ml of acetic acid and the mixture allowed to stand overnight. The solution was concentrated on a rotary evaporator and to the residue was added ethanol whereupon on standing crystallization resulted. The crystalline material was collected, washed with ethanol and dried in a vacuum oven at 90° C. to yield 6.0 g of 5-(3-methanesulfonylaminophenyl)-1,6-naphthyridin-2(1H)-one monohydrochloride, m.p. 258° C. with decomposition.

reactant | 5-(3-aminophenyl)-1,6-naphthyridin-2(1H)-one dihydrochloride monohydrate | 6.57 g | O.Cl.Cl.NC=1C=C(C=CC1)C1=C2C=CC(NC2=CC=N1)=O
reactant | methanesulfonyl chloride | 2.9 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | 64 ml | N1=CC=CC=C1 | C5H5N
product | 5-(3-methanesulfonylaminophenyl)-1,6-naphthyridin-2(1H)-one monohydrochloride | 6.0 g | Cl.CS(=O)(=O)NC=1C=C(C=CC1)C1=C2C=CC(NC2=CC=N1)=O | InChI=1S/C15H13N3O3S.ClH/c1-22(20,21)18-11-4-2-3-10(9-11)15-12-5-6-14(19)17-13(12)7-8-16-15;/h2-9,18H,1H3,(H,17,19);1H
